US05712300
Preparation of α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-N-benzyloxy-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetamide
A cold (0° C.) solution of α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetic acid (427 mg, 0.908 mmol) in 2:1 CH2 Cl2 /DMF (6 mL) is treated with HOBT (147 mg, 1.09 mmol), EDC (209 mg, 1.09 mmol), and 4-methylmorpholine (120 μL, 1.09 mmol). The ice bath is removed, and after 1 hour, a second portion of 4-methylmorpholine (150 μL, 1.36 mmol) and O-benzylhydroxylamine HCl (217 mg, 1.36 mmol) are added. The solution is stirred overnight at room temperature under N2. The solution is diluted with EtOAc (25 mL) and washed with 1N HCl (10 mL), 1N NaOH (10 mL), H2O (2×10 mL), and brine (10 mL). The organic layer is dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to give 530 mg of a yellow solid. The solid is purified by silica gel chromatography (30 g SG; 50% EtOAc/hexane) to provide 373 mg (71%) of the title compound as a white, amorphous solid:

reactant | α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetic acid | 0.908 mmol, 427 mg | FC=1C=C(C(=O)NCCC(C(=O)O)C2(C(N(CC2)CCC2=CC=CC=C2)=O)C(=C)C)C=CC1F | C26H28F2N2O4
reactant | Cl2 DMF | 6 mL | ClCl.CN(C)C=O
reactant | HOBT | 1.09 mmol, 147 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.09 mmol, 209 mg
reactant | 4-methylmorpholine | 1.09 mmol, 120 μL | CN1CCOCC1 | C5H11NO
reactant | 4-methylmorpholine | 1.36 mmol, 150 μL | CN1CCOCC1 | C5H11NO
reactant | O-benzylhydroxylamine HCl | 1.36 mmol, 217 mg | Cl.C(C1=CC=CC=C1)ON
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-N-benzyloxy-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetamide | 530 mg | FC=1C=C(C(=O)NCCC(C(=O)NOCC2=CC=CC=C2)C2(C(N(CC2)CCC2=CC=CC=C2)=O)C(=C)C)C=CC1F | C33H35F2N3O4
